US06342065B1
Two-step Synthesis of a 91/9 l-lactide/ε-caprolactone Copolymer
Using a similar reaction and polymerization set-up as in Example 10, caprolactone (86.96 g, 0.7628 mole) is first polymerized in the presence of decyl alcohol (1.61 ml, 8.421×10−mole) and stannous octoate as 0.2M solution in toluene (2.11 ml., 4.21×10−4 mole) at 170° C. until 50% conversion is achieved (to be determined by a combination of NMR and GPC analysis in control runs). At this point, the temperature of the reaction mixture is lowered to 135° C. and l-lactide (1110.4 g, 7.7112 mole) is added. After the monomer melts, the temperature is maintained at 135° C. for 72 hours- the reaction mixture is stirred until it solidifies. At the conclusion of this period, the polymer is allowed to cool. The polymer is then isolated, ground, and purified as in Example 10. The anticipated inherent viscosity is about 1.55 dl/g.

reactant | caprolactone | 0.7628 mole, 86.96 g | C1(CCCCCO1)=O | C6H10O2
reactant | decyl alcohol | 10−mole, 1.61 ml | C(CCCCCCCCC)O | C10H22O
reactant | stannous octoate | CCCCC(CC)C(=O)[O-].CCCCC(CC)C(=O)[O-].[Sn+2]
reactant | toluene | 4.21×10−4 mole, 2.11 ml | C1(=CC=CC=C1)C | C7H8
reactant | l-lactide | 7.7112 mole, 1110.4 g | C[C@H]1C(=O)O[C@H](C(=O)O1)C | C6H8O4
product | l-lactide ε-caprolactone | C[C@H]1C(=O)O[C@H](C(=O)O1)C.C1(CCCCCO1)=O | InChI=1S/C6H8O4.C6H10O2/c1-3-5(7)10-4(2)6(8)9-3;7-6-4-2-1-3-5-8-6/h3-4H,1-2H3;1-5H2/t3-,4-;/m0./s1
